US07196085B2
A mixture of the above crude (S)-3-benzyloxycarbonylamino-N-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]succinamic acid benzyl ester (0.57 g) and saturated aqueous sodium carbonate solution (pH 9; 10 ml) was stirred at ambient temperature for 72 hours. The pH of the mixture was adjusted to pH10 by the addition of further saturated aqueous sodium carbonate solution, then the mixture was stirred at 70° C. for 4 hours until a clear solution was obtained. The cooled solution was washed with ethyl acetate (2×5 ml) and the aqueous layer was acidified by the addition of 10% hydrochloric acid. The resulting solid was collected by filtration and dried in vacuo to give (S)-3-benzyloxycarbonylamino-N-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]succinamic acid (0.35 g) as an off-white solid, m.pt. 188–190° C., which was used without further purification.

reactant | (S)-3-benzyloxycarbonylamino-N-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]succinamic acid benzyl ester | 0.57 g | C(C1=CC=CC=C1)OC(C[C@@H](C(=O)NC1=C(C=CC(=C1)CC1=NNC(C2=CC=CC=C12)=O)F)NC(=O)OCC1=CC=CC=C1)=O | C34H29FN4O6
reactant | pH10 | CC1=CC=C(C=C1)COC(=O)NNC(=O)C2=NC=CN=C2 | C14H14N4O3
solvent | sodium carbonate | 10 ml, pH 9 | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-3-benzyloxycarbonylamino-N-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]succinamic acid | 0.35 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(=O)O)C(=O)NC1=C(C=CC(=C1)CC1=NNC(C2=CC=CC=C12)=O)F | C27H23FN4O6
